US09303020B2
Preparation of 5-(2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)-6-nitrobenzofuran-5-yl)-2-methoxybenzoic acid.
To a mixture of methyl 5-(2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)-6-nitrobenzofuran-5-yl)-2-methoxybenzoate (370 mg, 0.759 mmol) in a mixture of THF (40 mL)/water (4 mL) at room temperature was added a 2.0 M aqueous sodium hydroxide solution (1.518 mL, 3.04 mmol). The reaction mixture was heated to 50° C. and maintained at the same temperature overnight. The reaction mixture was concentrated to remove the solvent. The residue was diluted with water, acidified by using 1.5 N HCl, filtered and dried under suction to give the title compound as a yellow solid. Yield: 320 mg (89%). 1H NMR (400 MHz, DMSO-d6) δ ppm: 13.11-13.73 (m, 1H) 12.66-12.97 (m, 1H) 8.53 (s, 1H) 7.94-8.09 (m, 2H) 7.63-7.82 (m, 1H) 7.34-7.51 (m, 5H) 7.23 (d, J=8.78 Hz, 2H) 3.88 (s, 3H). LCMS: (ES+) m/z=474.23 (M+H)+; Column—ACQUITY UPLC BEH C8 (50×2.1 mm; 1.7 nm); Mphase A: 5 mM Ammonium Acetate:MeCN (95:5); Mphase B: 5 mM Ammonium Acetate:MeCN (5:95)

reactant | methyl 5-(2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)-6-nitrobenzofuran-5-yl)-2-methoxybenzoate | 0.759 mmol, 370 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C=1NC=CN1)C=C(C(=C2)[N+](=O)[O-])C=2C=CC(=C(C(=O)OC)C2)OC | C26H18FN3O6
reactant | water | 4 mL | O | H2O
reactant | sodium hydroxide | 3.04 mmol, 2.0 M, 1.518 mL | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-(2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)-6-nitrobenzofuran-5-yl)-2-methoxybenzoic acid | FC1=CC=C(C=C1)C=1OC2=C(C1C=1NC=CN1)C=C(C(=C2)[N+](=O)[O-])C=2C=CC(=C(C(=O)O)C2)OC | C25H16FN3O6
